US07977344B2
8-Bromo-2-{[2-(ethyoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To a stirred solution of 2-{[2-(ethyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (7.8 g, 25.4 mmol) in dichloromethane (100 ml) and NBS (5 g, 27.9 mmol) added with stirring. After 2 h, the solvent was removed. The product was purified through a silica column using petroleum ether: ethyl acetate 2:1 as eluent, which was a pale yellow solid (7.8 g, 79.6%).

reactant | 2-{[2-(ethyloxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 25.4 mmol, 7.8 g | C(C)OCCOC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C14H21N5O3
reactant | NBS | 27.9 mmol, 5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-Bromo-2-{[2-(ethyoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | BrC=1N(C2=NC(=NC(=C2N1)N)OCCOCC)C1OCCCC1 | C14H20BrN5O3
